* NGSPICE file created from bootstrap_switch.ext - technology: ihp-sg13g2

.subckt bootstrap_switch_pex vdd vi vo clk gnd
X0 gnd.t12 a_1896_n484# a_1378_n288.t0 gnd.t11 sg13_lv_nmos ad=0.136p pd=1.48u as=0.136p ps=1.48u w=0.4u l=0.13u
X1 vi.t0 a_777_n1200.t2 vo.t0 gnd.t4 sg13_lv_nmos ad=0.85p pd=5.68u as=0.85p ps=5.68u w=2.5u l=0.13u
X2 gnd.t15 a_1594_n1108.t3 a_2897_n1624.t0 gnd.t14 sg13_lv_nmos ad=0.136p pd=1.48u as=0.136p ps=1.48u w=0.4u l=0.13u
X3 a_1044_n1116.t0 a_1896_n484# vdd.t6 vdd.t4 sg13_lv_pmos ad=0.17p pd=1.68u as=0.17p ps=1.68u w=0.5u l=0.13u
X4 vdd.t3 clk.t0 a_1594_n1108.t2 vdd.t1 sg13_lv_pmos ad=0.272p pd=2.28u as=0.272p ps=2.28u w=0.8u l=0.13u
X5 vdd.t8 a_2905_n460.t1 w_1241_n212.t2 gnd.t17 sg13_lv_nmos ad=0.442p pd=3.28u as=0.442p ps=3.28u w=1.3u l=0.13u
X6 w_1241_n212.t3 a_1107_n1758.t0 cap_cmim l=6.99u w=9.39u
X7 a_2217_n1270.t0 a_1594_n1108.t4 gnd.t3 gnd.t2 sg13_lv_nmos ad=0.17p pd=1.68u as=0.17p ps=1.68u w=0.5u l=0.13u
X8 a_777_n1200.t0 vdd.t9 a_2217_n1270.t1 gnd.t6 sg13_lv_nmos ad=0.17p pd=1.68u as=0.17p ps=1.68u w=0.5u l=0.13u
X9 gnd.t8 clk.t0 a_1594_n1108.t1 gnd.t7 sg13_lv_nmos ad=0.136p pd=1.48u as=0.136p ps=1.48u w=0.4u l=0.13u
X10 vdd.t5 a_1896_n484# a_1378_n288.t1 vdd.t4 sg13_lv_pmos ad=0.272p pd=2.28u as=0.272p ps=2.28u w=0.8u l=0.13u
X11 vdd.t2 a_1594_n1108.t3 a_2897_n1624.t1 vdd.t1 sg13_lv_pmos ad=0.272p pd=2.28u as=0.272p ps=2.28u w=0.8u l=0.13u
X12 a_2905_n460.t2 a_1594_n1108.t0 cap_cmim l=6.99u w=4.665u
X13 gnd.t1 a_1594_n1108.t5 a_1426_n1756.t0 gnd.t0 sg13_lv_nmos ad=1.02p pd=6.68u as=1.02p ps=6.68u w=3u l=0.13u
X14 a_1107_n1758.t2 a_1044_n1116.t2 vi.t1 gnd.t16 sg13_lv_nmos ad=1.02p pd=6.68u as=1.02p ps=6.68u w=3u l=0.13u
X15 a_3245_n350.t1 a_2897_n1624.t2 cap_cmim l=6.99u w=4.665u
X16 w_1241_n212.t1 a_1378_n288.t2 a_777_n1200.t1 w_1241_n212.t0 sg13_lv_pmos ad=0.17p pd=1.68u as=0.17p ps=1.68u w=0.5u l=0.13u
X17 a_1107_n1758.t1 a_1594_n1108.t6 gnd.t10 gnd.t9 sg13_lv_nmos ad=0.442p pd=3.28u as=0.442p ps=3.28u w=1.3u l=0.4u
X18 a_3245_n350.t0 a_2905_n460.t3 vdd.t0 gnd.t5 sg13_lv_nmos ad=0.442p pd=3.28u as=0.442p ps=3.28u w=1.3u l=0.13u
X19 vdd.t7 a_3245_n350.t2 a_2905_n460.t0 gnd.t13 sg13_lv_nmos ad=0.442p pd=3.28u as=0.442p ps=3.28u w=1.3u l=0.13u
X20 a_1426_n1756.t1 vdd.t10 a_1044_n1116.t1 gnd.t0 sg13_lv_nmos ad=1.02p pd=6.68u as=1.02p ps=6.68u w=3u l=0.13u
C0 a_1896_n484# vdd 0.22188f
C1 vdd vi 0.08373f
C2 vdd clk 0.16174f
C3 vo vi 0.61887f
C4 vo vdd 0.04889f
R0 a_1378_n288.t0 a_1378_n288.n0 17.2852
R1 a_1378_n288.n0 a_1378_n288.t2 16.1733
R2 a_1378_n288.n0 a_1378_n288.t1 9.11151
R3 gnd.n47 gnd.t11 6064.32
R4 gnd.t6 gnd.n18 5073.33
R5 gnd.n58 gnd.n57 4035.37
R6 gnd.n46 gnd.n45 2743.13
R7 gnd.n47 gnd.n46 2249.79
R8 gnd.n45 gnd.t6 1906.67
R9 gnd.n58 gnd.n18 1486.67
R10 gnd.n52 gnd.n51 1186.91
R11 gnd.n55 gnd.n54 447.637
R12 gnd.n63 gnd.n62 302.812
R13 gnd.n59 gnd.n58 181.311
R14 gnd.n63 gnd.t11 123.954
R15 gnd.n52 gnd.t7 82.2655
R16 gnd.n55 gnd.t14 82.2655
R17 gnd.n48 gnd.n47 68.6012
R18 gnd.t17 gnd.n48 65.5295
R19 gnd.n50 gnd.t5 64.9886
R20 gnd.t9 gnd.n59 57.7882
R21 gnd.t13 gnd.n50 49.6349
R22 gnd.t2 gnd.n61 49.0963
R23 gnd.n62 gnd.t2 47.2961
R24 gnd.t16 gnd.t4 40.5082
R25 gnd.n61 gnd.t0 38.6369
R26 gnd.n51 gnd.t13 35.3194
R27 gnd.n60 gnd.t9 31.9293
R28 gnd.n5 gnd.t3 30.9467
R29 gnd.t5 gnd.n49 20.985
R30 gnd.n22 gnd.t8 17.4482
R31 gnd.n64 gnd.t12 17.3778
R32 gnd.n20 gnd.t15 17.3608
R33 gnd.n53 gnd.n52 17.0005
R34 gnd.n56 gnd.n21 17.0005
R35 gnd.n56 gnd.n55 17.0005
R36 gnd.n33 gnd.n19 12.7958
R37 gnd.t4 gnd.n60 12.4856
R38 gnd.n49 gnd.t17 11.7634
R39 gnd.n54 gnd.t7 11.7395
R40 gnd.n57 gnd.t14 11.7395
R41 gnd.n64 gnd.n63 11.3338
R42 gnd.n8 gnd.n7 9.03042
R43 gnd.n74 gnd.n73 9.03042
R44 gnd.n36 gnd.n35 9.03042
R45 gnd.n40 gnd.n39 9.03042
R46 gnd.n72 gnd.n71 9.01861
R47 gnd.n7 gnd.n6 9.0186
R48 gnd.n35 gnd.n34 9.0186
R49 gnd.n27 gnd.n23 9.01787
R50 gnd.n4 gnd.n1 9.01787
R51 gnd.n68 gnd.n10 9.01787
R52 gnd.n32 gnd.n29 9.01787
R53 gnd.n28 gnd.n27 9.01787
R54 gnd.n5 gnd.n4 9.0005
R55 gnd.n3 gnd.n2 9.0005
R56 gnd.n12 gnd.n11 9.0005
R57 gnd.n73 gnd.n72 9.0005
R58 gnd.n13 gnd.n12 9.0005
R59 gnd.n69 gnd.n68 9.0005
R60 gnd.n70 gnd.n69 9.0005
R61 gnd.n31 gnd.n30 9.0005
R62 gnd.n33 gnd.n32 9.0005
R63 gnd.n43 gnd.n42 9.0005
R64 gnd.n25 gnd.n24 9.0005
R65 gnd.n42 gnd.n41 9.0005
R66 gnd.n26 gnd.n25 9.0005
R67 gnd.n41 gnd.n40 9.0005
R68 gnd.n56 gnd.n19 8.52716
R69 gnd.n45 gnd.n17 8.501
R70 gnd.n18 gnd.n16 8.5005
R71 gnd.n48 gnd.n44 8.5005
R72 gnd.n14 gnd.t10 5.65073
R73 gnd.n53 gnd.n22 5.63152
R74 gnd.n43 gnd.n23 4.5471
R75 gnd.n71 gnd.n70 4.54536
R76 gnd.n6 gnd.n5 4.53473
R77 gnd.n34 gnd.n33 4.53473
R78 gnd.n8 gnd.n1 4.50628
R79 gnd.n74 gnd.n10 4.50628
R80 gnd.n36 gnd.n29 4.50628
R81 gnd.n39 gnd.n28 4.50628
R82 gnd.n9 gnd.n8 3.3005
R83 gnd.n39 gnd.n38 3.3005
R84 gnd.n37 gnd.n36 3.3005
R85 gnd.n75 gnd.n74 3.3005
R86 gnd.n44 gnd.n43 2.86049
R87 gnd.n60 gnd.n16 2.66376
R88 gnd.n65 gnd.n17 2.64957
R89 gnd.n57 gnd.n56 2.63175
R90 gnd.n54 gnd.n53 2.63175
R91 gnd.n14 gnd.t1 2.28269
R92 gnd.n70 gnd.n67 2.02138
R93 gnd.t0 gnd.t16 1.62081
R94 gnd.n67 gnd.n66 1.15699
R95 gnd.n67 gnd.n15 0.961754
R96 gnd.n66 gnd.n65 0.859819
R97 gnd.n15 gnd.n14 0.745431
R98 gnd.n22 gnd.n21 0.712801
R99 gnd.n38 gnd.n37 0.52124
R100 gnd.n61 gnd.n16 0.515338
R101 gnd.n16 gnd.n15 0.431601
R102 gnd gnd.n0 0.270611
R103 gnd.n66 gnd.n16 0.199062
R104 gnd.n65 gnd.n64 0.176594
R105 gnd gnd.n76 0.168643
R106 gnd.n76 gnd.n75 0.108906
R107 gnd.n38 gnd.n0 0.0950175
R108 gnd.n20 gnd.n19 0.0773493
R109 gnd gnd.n0 0.0583436
R110 gnd.n75 gnd.n9 0.045325
R111 gnd.n21 gnd.n20 0.0396781
R112 gnd.n7 gnd.n2 0.0357
R113 gnd.n73 gnd.n11 0.0357
R114 gnd.n72 gnd.n12 0.0357
R115 gnd.n35 gnd.n30 0.0357
R116 gnd.n42 gnd.n24 0.0357
R117 gnd.n41 gnd.n25 0.0357
R118 gnd.n40 gnd.n26 0.0357
R119 gnd.n4 gnd.n3 0.0342333
R120 gnd.n68 gnd.n12 0.0342333
R121 gnd.n69 gnd.n13 0.0342333
R122 gnd.n32 gnd.n31 0.0342333
R123 gnd.n27 gnd.n25 0.0342333
R124 gnd.n76 gnd 0.0319332
R125 gnd.n37 gnd.n9 0.0237925
R126 gnd.n6 gnd.n3 0.0185314
R127 gnd.n34 gnd.n31 0.0185314
R128 gnd.n71 gnd.n13 0.0185229
R129 gnd.n2 gnd.n1 0.0178037
R130 gnd.n11 gnd.n10 0.0178037
R131 gnd.n30 gnd.n29 0.0178037
R132 gnd.n28 gnd.n26 0.0178037
R133 gnd.n24 gnd.n23 0.0177958
R134 gnd.n50 gnd.n44 0.00944882
R135 gnd.n62 gnd.n16 0.00513002
R136 gnd.n59 gnd.n16 0.00247443
R137 gnd.n49 gnd.n44 0.00215079
R138 gnd.n51 gnd.n44 0.00129651
R139 gnd.n17 gnd.n16 0.00124999
R140 gnd.n46 gnd.n44 0.00100002
R141 a_777_n1200.t0 a_777_n1200.n0 30.6412
R142 a_777_n1200.n0 a_777_n1200.t1 28.4911
R143 a_777_n1200.n0 a_777_n1200.t2 24.8453
R144 vo vo.t0 8.55687
R145 vi vi.n2 8.03514
R146 vi.n1 vi.t0 5.67075
R147 vi.n1 vi.t1 5.66684
R148 vi.t0 vi.n0 4.24477
R149 vi.t1 vi.n0 3.42449
R150 vi.n2 vi.n1 0.059708
R151 vi.n2 vi.n0 0.042166
R152 a_1594_n1108.n11 a_1594_n1108.n10 32.6771
R153 a_1594_n1108.n7 a_1594_n1108.t1 17.2852
R154 a_1594_n1108.n9 a_1594_n1108.t4 15.8888
R155 a_1594_n1108.n9 a_1594_n1108.t6 15.8447
R156 a_1594_n1108.n8 a_1594_n1108.t3 15.4458
R157 a_1594_n1108.n10 a_1594_n1108.t5 15.0018
R158 a_1594_n1108.n19 a_1594_n1108.n11 10.3793
R159 a_1594_n1108.n11 a_1594_n1108.n8 10.3449
R160 a_1594_n1108.n7 a_1594_n1108.t2 9.11151
R161 a_1594_n1108.n18 a_1594_n1108.n12 9.0005
R162 a_1594_n1108.n19 a_1594_n1108.n18 9.0005
R163 a_1594_n1108.n4 a_1594_n1108.n3 9.0005
R164 a_1594_n1108.n22 a_1594_n1108.n21 9.0005
R165 a_1594_n1108.n14 a_1594_n1108.n6 4.52049
R166 a_1594_n1108.n13 a_1594_n1108.n5 4.51458
R167 a_1594_n1108.n23 a_1594_n1108.n1 4.50536
R168 a_1594_n1108.n14 a_1594_n1108.n2 4.5005
R169 a_1594_n1108.n25 a_1594_n1108.n24 4.5005
R170 a_1594_n1108.n17 a_1594_n1108.n1 4.49517
R171 a_1594_n1108.n26 a_1594_n1108.n0 4.49343
R172 a_1594_n1108.n16 a_1594_n1108.n15 4.49343
R173 a_1594_n1108.n20 a_1594_n1108.n19 4.4932
R174 a_1594_n1108.n15 a_1594_n1108.n13 4.49154
R175 a_1594_n1108.n19 a_1594_n1108.n6 4.49125
R176 a_1594_n1108.n18 a_1594_n1108.n17 3.0005
R177 a_1594_n1108.n24 a_1594_n1108.n2 3.0005
R178 a_1594_n1108.t0 a_1594_n1108.n27 0.777833
R179 a_1594_n1108.n10 a_1594_n1108.n9 0.59856
R180 a_1594_n1108.n8 a_1594_n1108.n7 0.570828
R181 a_1594_n1108.n27 a_1594_n1108.n26 0.106207
R182 a_1594_n1108.n13 a_1594_n1108.n6 0.0402971
R183 a_1594_n1108.n25 a_1594_n1108.n1 0.0239239
R184 a_1594_n1108.n20 a_1594_n1108.n2 0.0166005
R185 a_1594_n1108.n21 a_1594_n1108.n20 0.0166005
R186 a_1594_n1108.n23 a_1594_n1108.n22 0.0166005
R187 a_1594_n1108.n24 a_1594_n1108.n23 0.0166005
R188 a_1594_n1108.n3 a_1594_n1108.n0 0.0161469
R189 a_1594_n1108.n17 a_1594_n1108.n0 0.0161469
R190 a_1594_n1108.n16 a_1594_n1108.n4 0.0161469
R191 a_1594_n1108.n18 a_1594_n1108.n16 0.0161469
R192 a_1594_n1108.t0 a_1594_n1108.n27 0.0129943
R193 a_1594_n1108.n12 a_1594_n1108.n5 0.0126912
R194 a_1594_n1108.n19 a_1594_n1108.n5 0.0126912
R195 a_1594_n1108.n14 a_1594_n1108.n12 0.0118028
R196 a_1594_n1108.n15 a_1594_n1108.n14 0.0115336
R197 a_1594_n1108.n26 a_1594_n1108.n25 0.0115
R198 a_1594_n1108.n21 a_1594_n1108.n4 0.000803448
R199 a_1594_n1108.n22 a_1594_n1108.n3 0.000803448
R200 a_2897_n1624.n22 a_2897_n1624.n21 31.0822
R201 a_2897_n1624.t0 a_2897_n1624.n22 17.2852
R202 a_2897_n1624.n22 a_2897_n1624.t1 9.11151
R203 a_2897_n1624.n11 a_2897_n1624.n8 9.0005
R204 a_2897_n1624.n5 a_2897_n1624.n3 9.0005
R205 a_2897_n1624.n11 a_2897_n1624.n10 9.0005
R206 a_2897_n1624.n9 a_2897_n1624.n3 9.0005
R207 a_2897_n1624.n19 a_2897_n1624.n2 4.50722
R208 a_2897_n1624.n15 a_2897_n1624.n14 4.50536
R209 a_2897_n1624.n16 a_2897_n1624.n4 4.5005
R210 a_2897_n1624.n19 a_2897_n1624.n18 4.5005
R211 a_2897_n1624.n14 a_2897_n1624.n13 4.49517
R212 a_2897_n1624.n20 a_2897_n1624.n1 4.4937
R213 a_2897_n1624.n7 a_2897_n1624.n6 4.49343
R214 a_2897_n1624.n21 a_2897_n1624.n0 4.4932
R215 a_2897_n1624.n13 a_2897_n1624.n12 3.0005
R216 a_2897_n1624.n17 a_2897_n1624.n16 3.0005
R217 a_2897_n1624.n12 a_2897_n1624.n1 3.0005
R218 a_2897_n1624.n18 a_2897_n1624.n17 3.0005
R219 a_2897_n1624.n6 a_2897_n1624.t2 0.119227
R220 a_2897_n1624.n17 a_2897_n1624.n3 0.0317552
R221 a_2897_n1624.n12 a_2897_n1624.n11 0.0308448
R222 a_2897_n1624.n20 a_2897_n1624.n19 0.0297377
R223 a_2897_n1624.n14 a_2897_n1624.n4 0.0239239
R224 a_2897_n1624.n15 a_2897_n1624.n5 0.0166005
R225 a_2897_n1624.n16 a_2897_n1624.n15 0.0166005
R226 a_2897_n1624.n18 a_2897_n1624.n0 0.0166005
R227 a_2897_n1624.n9 a_2897_n1624.n0 0.0166005
R228 a_2897_n1624.n10 a_2897_n1624.n2 0.0161469
R229 a_2897_n1624.n2 a_2897_n1624.n1 0.0161469
R230 a_2897_n1624.n8 a_2897_n1624.n7 0.0161469
R231 a_2897_n1624.n13 a_2897_n1624.n7 0.0161469
R232 a_2897_n1624.n21 a_2897_n1624.n20 0.0156093
R233 a_2897_n1624.n6 a_2897_n1624.n4 0.0115
R234 a_2897_n1624.n8 a_2897_n1624.n5 0.000803448
R235 a_2897_n1624.n11 a_2897_n1624.n3 0.000803448
R236 a_2897_n1624.n10 a_2897_n1624.n9 0.000803448
R237 vdd.n22 vdd.t10 37.129
R238 vdd.n21 vdd.t7 21.2951
R239 vdd.n6 vdd.t6 17.5186
R240 vdd.n2 vdd.n0 17.0005
R241 vdd.t0 vdd.n15 17.0005
R242 vdd.n17 vdd.t0 17.0005
R243 vdd.n16 vdd.t0 17.0005
R244 vdd.t8 vdd.n15 17.0005
R245 vdd.n17 vdd.t8 17.0005
R246 vdd.t8 vdd.n16 17.0005
R247 vdd.n5 vdd.t9 15.4454
R248 vdd.n13 vdd.n12 15.1399
R249 vdd.n20 vdd.n19 12.5536
R250 vdd.n1 vdd.t1 11.2968
R251 vdd.n1 vdd.t3 9.01184
R252 vdd.n19 vdd.n18 9.0005
R253 vdd.n3 vdd.t2 8.91901
R254 vdd.n9 vdd.t5 8.91901
R255 vdd.n10 vdd.n9 8.60851
R256 vdd.n12 vdd.n11 8.501
R257 vdd.n4 vdd.n0 8.46974
R258 vdd.n8 vdd.n7 8.46936
R259 vdd.n11 vdd.t4 5.66842
R260 vdd.t4 vdd.n10 5.66778
R261 vdd.t1 vdd.n0 5.66717
R262 vdd.n19 vdd.n14 4.648
R263 vdd.n6 vdd.n5 3.95314
R264 vdd.n22 vdd.n21 0.908402
R265 vdd.n2 vdd.n1 0.717193
R266 vdd.n5 vdd.n4 0.370276
R267 vdd vdd.n22 0.23247
R268 vdd vdd.n13 0.168921
R269 vdd.n8 vdd.n6 0.164989
R270 vdd.n4 vdd.n3 0.139431
R271 vdd.n9 vdd.n8 0.116961
R272 vdd.n3 vdd.n2 0.0531761
R273 vdd.n20 vdd.n13 0.0498354
R274 vdd.n18 vdd.n17 0.0452964
R275 vdd.n21 vdd.n20 0.0287622
R276 vdd.n16 vdd.n14 0.0274732
R277 vdd.n17 vdd.n14 0.024195
R278 vdd.n18 vdd.n15 0.00547738
R279 vdd.n12 vdd.n6 0.00173596
R280 vdd.n10 vdd.n7 0.00166667
R281 vdd.n11 vdd.n7 0.00124999
R282 a_1044_n1116.t0 a_1044_n1116.n0 57.304
R283 a_1044_n1116.n0 a_1044_n1116.t2 15.0005
R284 a_1044_n1116.n0 a_1044_n1116.t1 3.77826
R285 clk clk.t0 39.2421
R286 a_2905_n460.n20 a_2905_n460.n19 21.2719
R287 a_2905_n460.n20 a_2905_n460.t1 15.858
R288 a_2905_n460.n21 a_2905_n460.t3 15.0005
R289 a_2905_n460.n13 a_2905_n460.n12 9.0005
R290 a_2905_n460.n13 a_2905_n460.n7 9.0005
R291 a_2905_n460.n15 a_2905_n460.n14 9.0005
R292 a_2905_n460.n5 a_2905_n460.n3 9.0005
R293 a_2905_n460.n6 a_2905_n460.n5 9.0005
R294 a_2905_n460.t0 a_2905_n460.n21 6.95387
R295 a_2905_n460.n18 a_2905_n460.n2 4.52049
R296 a_2905_n460.n18 a_2905_n460.n17 4.5005
R297 a_2905_n460.n9 a_2905_n460.n8 4.49515
R298 a_2905_n460.n19 a_2905_n460.n0 4.49343
R299 a_2905_n460.n16 a_2905_n460.n6 4.4932
R300 a_2905_n460.n19 a_2905_n460.n1 4.49154
R301 a_2905_n460.n6 a_2905_n460.n2 4.49125
R302 a_2905_n460.n11 a_2905_n460.n10 3.03054
R303 a_2905_n460.n17 a_2905_n460.n4 3.00885
R304 a_2905_n460.n10 a_2905_n460.n9 3.0005
R305 a_2905_n460.n12 a_2905_n460.n4 2.26296
R306 a_2905_n460.n11 a_2905_n460.t2 2.24339
R307 a_2905_n460.n2 a_2905_n460.n1 0.0402971
R308 a_2905_n460.n13 a_2905_n460.n10 0.0308448
R309 a_2905_n460.n14 a_2905_n460.n4 0.0243199
R310 a_2905_n460.n5 a_2905_n460.n1 0.0199256
R311 a_2905_n460.n16 a_2905_n460.n15 0.0166005
R312 a_2905_n460.n17 a_2905_n460.n16 0.0166005
R313 a_2905_n460.n7 a_2905_n460.n0 0.0161469
R314 a_2905_n460.n9 a_2905_n460.n0 0.0161469
R315 a_2905_n460.n8 a_2905_n460.n6 0.0126912
R316 a_2905_n460.n8 a_2905_n460.n3 0.0126912
R317 a_2905_n460.n18 a_2905_n460.n3 0.0118028
R318 a_2905_n460.n19 a_2905_n460.n18 0.0115336
R319 a_2905_n460.n21 a_2905_n460.n20 0.00521429
R320 a_2905_n460.n12 a_2905_n460.n11 0.000803448
R321 a_2905_n460.n14 a_2905_n460.n13 0.000803448
R322 a_2905_n460.n15 a_2905_n460.n7 0.000803448
R323 w_1241_n212.t1 w_1241_n212.n16 17.0005
R324 w_1241_n212.n15 w_1241_n212.n14 13.8861
R325 w_1241_n212.n16 w_1241_n212.n15 12.959
R326 w_1241_n212.n16 w_1241_n212.t0 11.815
R327 w_1241_n212.n15 w_1241_n212.t2 9.40506
R328 w_1241_n212.n8 w_1241_n212.n7 9.0005
R329 w_1241_n212.n3 w_1241_n212.n2 9.0005
R330 w_1241_n212.n7 w_1241_n212.n6 9.0005
R331 w_1241_n212.n2 w_1241_n212.n1 9.0005
R332 w_1241_n212.n1 w_1241_n212.n0 9.0005
R333 w_1241_n212.n12 w_1241_n212.n11 3.00885
R334 w_1241_n212.n5 w_1241_n212.n4 3.00864
R335 w_1241_n212.n9 w_1241_n212.n4 3.00862
R336 w_1241_n212.n13 w_1241_n212.n12 3.0005
R337 w_1241_n212.n14 w_1241_n212.n13 3.0005
R338 w_1241_n212.n5 w_1241_n212.n0 2.26694
R339 w_1241_n212.n11 w_1241_n212.n10 2.26266
R340 w_1241_n212.n10 w_1241_n212.n9 2.26263
R341 w_1241_n212.n10 w_1241_n212.t3 2.23387
R342 w_1241_n212.n14 w_1241_n212.n0 0.039569
R343 w_1241_n212.n12 w_1241_n212.n2 0.0317552
R344 w_1241_n212.n13 w_1241_n212.n1 0.0317552
R345 w_1241_n212.n7 w_1241_n212.n4 0.0308448
R346 w_1241_n212.n11 w_1241_n212.n3 0.0243199
R347 w_1241_n212.n9 w_1241_n212.n8 0.0236441
R348 w_1241_n212.n6 w_1241_n212.n5 0.0236299
R349 w_1241_n212.n8 w_1241_n212.n3 0.000803448
R350 w_1241_n212.n7 w_1241_n212.n2 0.000803448
R351 w_1241_n212.n6 w_1241_n212.n1 0.000803448
R352 a_1107_n1758.n15 a_1107_n1758.t1 17.0517
R353 a_1107_n1758.n14 a_1107_n1758.n13 9.14174
R354 a_1107_n1758.n15 a_1107_n1758.n14 9.04245
R355 a_1107_n1758.n12 a_1107_n1758.n4 9.0005
R356 a_1107_n1758.n10 a_1107_n1758.n9 9.0005
R357 a_1107_n1758.n4 a_1107_n1758.n3 9.0005
R358 a_1107_n1758.n9 a_1107_n1758.n8 9.0005
R359 a_1107_n1758.n7 a_1107_n1758.n3 9.0005
R360 a_1107_n1758.n17 a_1107_n1758.n16 8.92852
R361 a_1107_n1758.t1 a_1107_n1758.n13 8.48635
R362 a_1107_n1758.n14 a_1107_n1758.t2 5.34524
R363 a_1107_n1758.n2 a_1107_n1758.n1 4.50536
R364 a_1107_n1758.n21 a_1107_n1758.n20 4.5005
R365 a_1107_n1758.n5 a_1107_n1758.n1 4.49517
R366 a_1107_n1758.n22 a_1107_n1758.n0 4.49343
R367 a_1107_n1758.n11 a_1107_n1758.n6 3.00864
R368 a_1107_n1758.n18 a_1107_n1758.n17 3.0005
R369 a_1107_n1758.n19 a_1107_n1758.n18 3.0005
R370 a_1107_n1758.n6 a_1107_n1758.n5 3.0005
R371 a_1107_n1758.n20 a_1107_n1758.n19 3.0005
R372 a_1107_n1758.n12 a_1107_n1758.n11 2.26694
R373 a_1107_n1758.t0 a_1107_n1758.n23 1.06017
R374 a_1107_n1758.n23 a_1107_n1758.n22 0.104061
R375 a_1107_n1758.n16 a_1107_n1758.n13 0.0718134
R376 a_1107_n1758.n16 a_1107_n1758.n15 0.0529419
R377 a_1107_n1758.n17 a_1107_n1758.n12 0.039569
R378 a_1107_n1758.n18 a_1107_n1758.n4 0.0317552
R379 a_1107_n1758.n19 a_1107_n1758.n3 0.0317552
R380 a_1107_n1758.n9 a_1107_n1758.n6 0.0308448
R381 a_1107_n1758.n21 a_1107_n1758.n1 0.0239239
R382 a_1107_n1758.n11 a_1107_n1758.n10 0.0236299
R383 a_1107_n1758.n7 a_1107_n1758.n2 0.0166005
R384 a_1107_n1758.n20 a_1107_n1758.n2 0.0166005
R385 a_1107_n1758.n5 a_1107_n1758.n0 0.0161469
R386 a_1107_n1758.n8 a_1107_n1758.n0 0.0161469
R387 a_1107_n1758.t0 a_1107_n1758.n23 0.0120563
R388 a_1107_n1758.n22 a_1107_n1758.n21 0.0115
R389 a_1107_n1758.n10 a_1107_n1758.n4 0.000803448
R390 a_1107_n1758.n9 a_1107_n1758.n3 0.000803448
R391 a_1107_n1758.n8 a_1107_n1758.n7 0.000803448
R392 a_2217_n1270.t0 a_2217_n1270.t1 34.1149
R393 a_1426_n1756.t0 a_1426_n1756.t1 4.25425
R394 a_3245_n350.n20 a_3245_n350.n19 22.1589
R395 a_3245_n350.t0 a_3245_n350.n0 17.0005
R396 a_3245_n350.n0 a_3245_n350.t2 16.0463
R397 a_3245_n350.n14 a_3245_n350.n13 9.0005
R398 a_3245_n350.n13 a_3245_n350.n12 9.0005
R399 a_3245_n350.n5 a_3245_n350.n4 9.0005
R400 a_3245_n350.n12 a_3245_n350.n11 9.0005
R401 a_3245_n350.n10 a_3245_n350.n4 9.0005
R402 a_3245_n350.t0 a_3245_n350.n20 8.5689
R403 a_3245_n350.n3 a_3245_n350.n2 4.50831
R404 a_3245_n350.n18 a_3245_n350.n17 4.5005
R405 a_3245_n350.n8 a_3245_n350.n2 4.4937
R406 a_3245_n350.n19 a_3245_n350.n1 4.49343
R407 a_3245_n350.n7 a_3245_n350.n6 3.02902
R408 a_3245_n350.n16 a_3245_n350.n15 3.00885
R409 a_3245_n350.n9 a_3245_n350.n7 3.0005
R410 a_3245_n350.n9 a_3245_n350.n8 3.0005
R411 a_3245_n350.n17 a_3245_n350.n16 3.0005
R412 a_3245_n350.n15 a_3245_n350.n14 2.26296
R413 a_3245_n350.n6 a_3245_n350.t1 2.243
R414 a_3245_n350.n20 a_3245_n350.n0 0.142709
R415 a_3245_n350.n16 a_3245_n350.n4 0.0317552
R416 a_3245_n350.n13 a_3245_n350.n7 0.0308448
R417 a_3245_n350.n12 a_3245_n350.n9 0.0308448
R418 a_3245_n350.n18 a_3245_n350.n2 0.0297377
R419 a_3245_n350.n15 a_3245_n350.n5 0.0243199
R420 a_3245_n350.n17 a_3245_n350.n3 0.0166005
R421 a_3245_n350.n10 a_3245_n350.n3 0.0166005
R422 a_3245_n350.n11 a_3245_n350.n1 0.0161469
R423 a_3245_n350.n8 a_3245_n350.n1 0.0161469
R424 a_3245_n350.n19 a_3245_n350.n18 0.014292
R425 a_3245_n350.n14 a_3245_n350.n6 0.00232069
R426 a_3245_n350.n13 a_3245_n350.n5 0.000803448
R427 a_3245_n350.n12 a_3245_n350.n4 0.000803448
R428 a_3245_n350.n11 a_3245_n350.n10 0.000803448
C5 clk gnd 1.31453f
C6 vo gnd 1.08409f
C7 vi gnd 1.01467f
C8 vdd gnd 17.3224f
C9 a_1896_n484# gnd 0.5027f $ **FLOATING
.ends
